US08378104B2
Step A: 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thieno[2,3-c]pyridine
A nitrogen degassed mixture of Pd2(dba)3 (0.81 g, 0.96 mmol) and tricyclohexylphosphine (0.99 g, 3.5 mmol) in 1,4-dioxane (250 mL) was stirred for 30 min. To this solution were added 3-bromo-thieno[2,3-c]pyridine (6.3 g, 29 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (9.7 g, 38 mmol) followed by potassium acetate (4.61 g, 47.1 mmol) and the mixture was heated at 90° C. for 16 h. The reaction mixture was cooled to RT and filtered. Solvent was evaporated from the filtrate and the residue was triturated with diisopropyl ether (50 mL) to afford 6.3 g (82%) of the title compound as a solid. 1H NMR (300 MHz, CDCl3): δ 1.38 (s, 12 H), 8.21 (d, J=5.7 Hz, 1H), 8.29 (s, 1H), 8.52 (d, J=5.7 Hz, 1H), 9.17 (s, 1H).

reactant | tricyclohexylphosphine | 3.5 mmol, 0.99 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 3-bromo-thieno[2,3-c]pyridine | 29 mmol, 6.3 g | BrC1=CSC2=CN=CC=C21 | C7H4BrNS
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 38 mmol, 9.7 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 47.1 mmol, 4.61 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.96 mmol, 0.81 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-thieno[2,3-c]pyridine | 6.3 g, 82% | CC1(OB(OC1(C)C)C1=CSC2=CN=CC=C21)C | C13H16BNO2S
